US09334263B2
To a solution of 5-methyl-4-nitro-1H-pyrazole (2.5 g, 19.7 mmol) in acetonitrile (100 mL) was added (S)-2-methyloxirane (1.37 g, 23.6 mmol) and cesium carbonate (19.3 g, 59.1 mmol). The mixture was stirred at 30° C. for 7 days, then cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by Prep-HPLC and then chiral-HPLC to give (S)-1-(5-methyl-4-nitro-1H-pyrazol-1-yl)propan-2-ol (0.33 g) as a yellowish solid. MS (ES+) C7H11N3O3 requires: 185, found: 186 [M+H]+.

reactant | 5-methyl-4-nitro-1H-pyrazole | 19.7 mmol, 2.5 g | CC1=C(C=NN1)[N+](=O)[O-] | C4H5N3O2
reactant | (S)-2-methyloxirane | 23.6 mmol, 1.37 g | C[C@@H]1OC1 | C3H6O
reactant | cesium carbonate | 59.1 mmol, 19.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (S)-1-(5-methyl-4-nitro-1H-pyrazol-1-yl)propan-2-ol | 0.33 g | CC1=C(C=NN1C[C@H](C)O)[N+](=O)[O-] | C7H11N3O3
